US07727988B2
5-(3-fluoro-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E44)
5-(3-fluoro-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder.

reactant | 5-(3-fluoro-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | FC=1C=NC=CC1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H22F4N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(3-fluoro-4-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.FC=1C=NC=CC1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H22F4N4O2.2ClH/c25-20-11-29-7-6-18(20)19-13-32(22(34)30-21(19)33)9-1-8-31-12-17-10-23(17,14-31)15-2-4-16(5-3-15)24(26,27)28;;/h2-7,11,13,17H,1,8-10,12,14H2,(H,30,33,34);2*1H/t17-,23+;;/m0../s1
